US09301951B2
3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(bis(2-methoxyethyl)amino)phenyl)carbamoyl)benzylthio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(bis(2-methoxyethyl)amino)phenyl)-carbamoyl)benzylthio)propanoate (160 mg, 0.21 mmol, 1.00 equiv) in dichloromethane (8 mL), and trifluoroacetic acid (2 mL). The resulting solution was stirred for 4 h at 25° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The crude product (125 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 81.1 mg (41%) of as a yellow solid. 1H-NMR (300 MHz, DMSO, ppm): δ 11.86 (s, 1H), 9.49 (t, J=5.7 Hz, 1H), 8.94 (d, J=5.1 Hz, 1H), 8.25 (s, 1H), 8.12 (d, J=6.5 Hz, 1H), 7.82 (s, 2H), 7.71 (m, 2H), 7.62 (m, 5H), 7.15 (d, J=2.4 Hz, 1H), 6.90 (m, 1H), 4.61 (d, J=6.0 Hz, 2H), 3.87 (s, 2H), 3.56 (m, 8H), 3.27 (s, 6H), 2.63 (m, 2H), 2.51 (m, 2H). MS (ES, m/z): 725 [M+H]+.

reactant | tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(bis(2-methoxyethyl)amino)phenyl)-carbamoyl)benzylthio)propanoate | 0.21 mmol, 160 mg, 1.00 equiv | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N(CCOC)CCOC)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=CC1)(F)F | C41H47F3N4O6S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(bis(2-methoxyethyl)amino)phenyl)carbamoyl)benzylthio)propanoic acid | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N(CCOC)CCOC)NC(=O)C=2C=C(CSCCC(=O)O)C=CC2)C=CC1)(F)F | C37H39F3N4O6S
